US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-6-methyl-7-methylamino-8-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Pyridine (500 mg) and a 40% aqueous solution (300 mg) of methylamine were added to 1-(5-amino-2,4-difluorophenyl)-7-fluoro-6-methyl-8-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (70 mg), and the mixture was heated and stirred overnight at 40° C. Dimethyl sulfoxide (10 drops) was added to the reaction mixture, followed by stirring at 40° C. for 5 hours. The solvent and the like were distilled off under reduced pressure, and ethanol (0.5 ml) was added to the residue. Solids deposited were collected by filtration aid washed with ethanol and diethyl ether to obtain the title compound (53 mg) as a yellow powder.

reactant | methylamine | CN | CH5N
reactant | 1-(5-amino-2,4-difluorophenyl)-7-fluoro-6-methyl-8-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 70 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)[N+](=O)[O-])F)C)=O)C(=O)O)F)F | C17H10F3N3O5
catalyst | Dimethyl sulfoxide | 10 drops | CS(=O)C | C2H6OS
solvent | Pyridine | 500 mg | N1=CC=CC=C1 | C5H5N
product | 1-(5-Amino-2,4-difluorophenyl)-6-methyl-7-methylamino-8-nitro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 53 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)[N+](=O)[O-])NC)C)=O)C(=O)O)F)F | C18H14F2N4O5
